US08871796B2
Sodium chlorite (71 mg, 0.78 mmol, 4.0 equiv) was added to a mixture of N-(1-{3-[1-ethyl-5-(4-formylphenoxy)-1H-pyrazol-3-yl]phenyl}-1-methylethyl)-2,2,2-trifluoroethanesulfonamide (97 mg, 0.20 mmol, 1 equiv), 2-methyl-2-butene (1 mL), aqueous sodium dihydrogenphosphate solution (20% w/w, 0.7 mL) and methanol (2.8 mL). The biphasic mixture was stirred for 90 minutes, then was partitioned between ethyl acetate and saturated aqueous sodium chloride solution. The organic layer was dried over sodium sulfate. The dried solution was filtered, and the filtrate was concentrated to afford 4-({1-ethyl-3-[3-(1-methyl-1-{[(2,2,2-trifluoroethyl)sulfonyl]amino}ethyl)phenyl]-1H-pyrazol-5-yl}oxy)benzoic acid. Calcd (M+1)+: 512.1. Found: 512.1.

reactant | Sodium chlorite | 0.78 mmol, 71 mg, 4.0 equiv | Cl(=O)[O-].[Na+]
reactant | N-(1-{3-[1-ethyl-5-(4-formylphenoxy)-1H-pyrazol-3-yl]phenyl}-1-methylethyl)-2,2,2-trifluoroethanesulfonamide | 0.20 mmol, 97 mg, 1 equiv | C(C)N1N=C(C=C1OC1=CC=C(C=C1)C=O)C=1C=C(C=CC1)C(C)(C)NS(=O)(=O)CC(F)(F)F | C23H24F3N3O4S
reactant | 2-methyl-2-butene | 1 mL | CC(C)=CC | C5H10
reactant | sodium dihydrogenphosphate | 0.7 mL | P(=O)(O)(O)[O-].[Na+]
solvent | methanol | 2.8 mL | CO | CH4O
product | 4-({1-ethyl-3-[3-(1-methyl-1-{[(2,2,2-trifluoroethyl)sulfonyl]amino}ethyl)phenyl]-1H-pyrazol-5-yl}oxy)benzoic acid | C(C)N1N=C(C=C1OC1=CC=C(C(=O)O)C=C1)C1=CC(=CC=C1)C(C)(NS(=O)(=O)CC(F)(F)F)C | C23H24F3N3O5S
